US05304572
To a well stirred mixture of 4-cyano-3,5-dichlorobenzoyl chloride (4.0 g, 0.017 mol) and water (100 ml) at 0° C. (ice-water bath) were added 3-amino-3-methyl-1-pentyne hydrochloride and 50 weight percent aqueous sodium hydroxide (10 ml). The resulting mixture was stirred 1 hour at 0° C., warmed up to room temperature and extracted with ethyl acetate (3×50 ml), the combined organic layers were washed with water (3×50 ml), and then dried over anhydrous sodium sulfate. The solvent was then eliminated in the rotavap, yielding the crude product as a yellow oil (2.79 g). The crude product was purified by Michel-Miller chromatographic column packed with Merck (grade 60) silica gel using ethyl acetate as solvent, yielding 0.75 g of N-[3'-methyl-1'-pentynyl)]-4-cyano-3,5-dichlorobenzamide.

reactant | 4-cyano-3,5-dichlorobenzoyl chloride | 0.017 mol, 4.0 g | C(#N)C1=C(C=C(C(=O)Cl)C=C1Cl)Cl | C8H2Cl3NO
reactant | 3-amino-3-methyl-1-pentyne hydrochloride | Cl.NC(C#C)(CC)C
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-cyano-3,5-dichlorobenzamide | C(#N)C1=C(C=C(C(=O)N)C=C1Cl)Cl | C8H4Cl2N2O
